US07897597B2
1-(2-Methylpropyl)-7-(3-nitrophenoxy-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (0.254 g, 0.606 mmol), prepared as described in Example 37, was stirred in ethanol (10 mL), and 5% platinum on carbon (0.025 g) was added. The reaction was placed under a positive pressure of hydrogen and stirred for one hour. The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with methanol. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluting with dichloromethane:methanol ranging in ratios from 98:2 to 95:5). The product was recrystallized from acetonitrile to provide 0.032 g of 7-(3-ethylaminophenoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as square, orange crystals, mp 168-174° C.

reactant | 3-nitrophenoxy-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.606 mmol, 0.254 g | [N+](=O)([O-])C=1C=C(ON2C(=NC=3C(=NC=4C=CC=CC4C32)N)CCC)C=CC1 | C19H17N5O3
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | platinum on carbon | 0.025 g | [Pt] | Pt
product | 7-(3-ethylaminophenoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.032 g | C(C)NC=1C=C(OC=2C=CC=3C4=C(C(=NC3C2)N)N=C(N4CC(C)C)CCC)C=CC1 | C25H31N5O
